US05252573
3-Carboethoxybenzyl bromide (1 ml; Heterocycles, 1977, 6, 5) was added to a saturated solution of ammonia in acetonitrile (30 ml) which had been cooled to -30° C. The mixture was stirred and allowed to warm to laboratory temperature. The mixture was filtered and the filtrate was evaporated. The residue was purified by chromatography on a silica gel column using a 10:1 v/v mixture of ethyl acetate and methanol as eluent. There was thus obtained as an oil 3-carboethoxybenzylamine (0.4 g) which was used without further purification as the appropriate amine in the process described in Example 1.

reactant | 3-Carboethoxybenzyl bromide | 1 ml | C(=O)(OCC)C=1C=C(CBr)C=CC1 | C10H11BrO2
reactant | ammonia | N | H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-carboethoxybenzylamine | 0.4 g | C(=O)(OCC)C=1C=C(CN)C=CC1 | C10H13NO2
